US05274118
Preparation of (R)-3-Methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]-N-(2-methylphenylsulfonyl)benzamide
To a mixture of 4-(5-carboxy-1-methylindol-3-ylmethyl)-3-methoxy-N-(2-methylphenylsulfonyl)benzamide (103.5 g), 4-dimethylaminopyridine (112.4 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (51.8 g) in tetrahydrofuran (distilled from sodium benzophenone ketyl) (2.0 l), which had been stirred for 2 hours, was added (R)-2-methyl-4,4,4-trifluorobutylamine hydrochloride (42.6 g); and the reaction mixture was stirred overnight (about 18 hours, incomplete reaction) then heated to reflux for two hours (complete reaction). The cooled reaction mixture was diluted with ethyl acetate (2 1) washed with 1N hydrochloric acid (twice) and brine, dried (MgSO4) and evaporated. The residue (138.6 g) was combined with impure product from similar procedures (28.0 g) and purified by flash chromatography, eluting with methylene chloride:ethyl acetate (sequentially, 1:0, 9:1 and 3:1) to afford a solid which was triturated twice with ether to give the crude title compound (135.2 g) which was recrystallized from ethanol (1.2 l) and acetone (0.3 l) (concentrated by boiling to about 0.9 l and refrigerated) and dried under vacuum to provide the title compound (117.1 g, 65% recovery) as a white crystalline solid; mp 141.5°-143.5° C.; NMR (300 MHz, DMSO-d6): 1.01 (d, 3H, CH3), 2.0-2.2 (m, 2H, CF3CH2), 2.3-2.5 (m, 1H, CHCH3), 2.61 (s, 3H, ArCH3), 3.23 (br t, 2H, CH2N), 3.76 (s, 3H, NCH3), 3.92 (s, 3H, OCH3), 4.07 (s, ArCH2Ar'), 7.13 (s, 1H), 7.17 (d, 2H), 7.38-7.69 (m, 6H), 7.72 (d, 1H), 8.05 (d, 1H), 8.11 (s, 1H), 8.46 (br t, 1H, NHCO); analysis for C31H32F3N3O5S: calculated: C, 60.48; H, 5.24; N, 6.83%, found: C, 60.47; H, 5.27; N, 6.67%

reactant | 4-(5-carboxy-1-methylindol-3-ylmethyl)-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 103.5 g | C(=O)(O)C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C26H24N2O6S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 51.8 g | Cl.CN(CCCN=C=NCC)C
reactant | (R)-2-methyl-4,4,4-trifluorobutylamine hydrochloride | 42.6 g | Cl.C[C@@H](CN)CC(F)(F)F
catalyst | 4-dimethylaminopyridine | 112.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 2.0 l | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-Methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]-N-(2-methylphenylsulfonyl)benzamide | 117.1 g, 65% | COC=1C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=CC1CC1=CN(C2=CC=C(C=C12)C(NC[C@@H](CC(F)(F)F)C)=O)C | C31H32F3N3O5S
